US09108957B2
To a solution of (S)-6-(4-bromophenyl)-4-((R)-1-phenylethyl)-[1,4]oxazepane (0.610 g, 1.69 mmol) in 1,2-dichloroethane (2.83 ml) was added 1-chloroethyl chloroformate (0.605 g, 4.23 mmol) at room temperature. The mixture was refluxed for 4 hours and cooled to room temperature. After addition of methanol (5.0 ml), the mixture was refluxed for 3 hours and concentrated under reduced pressure to afford the crude product. This crude product was washed with ether, dried under reduced pressure to afford (S)-6-(4-bromophenyl)-1,4-oxazepane hydrochloride as white solid (0.424 g, 86%).

reactant | (S)-6-(4-bromophenyl)-4-((R)-1-phenylethyl)-[1,4]oxazepane | 1.69 mmol, 0.610 g | BrC1=CC=C(C=C1)[C@H]1CN(CCOC1)[C@H](C)C1=CC=CC=C1 | C19H22BrNO
reactant | 1-chloroethyl chloroformate | 4.23 mmol, 0.605 g | ClC(=O)OC(C)Cl | C3H4Cl2O2
reactant | methanol | 5.0 ml | CO | CH4O
solvent | 1,2-dichloroethane | 2.83 ml | ClCCCl | C2H4Cl2
product | (S)-6-(4-bromophenyl)-1,4-oxazepane hydrochloride | 0.424 g, 86% | Cl.BrC1=CC=C(C=C1)[C@H]1CNCCOC1 | InChI=1S/C11H14BrNO.ClH/c12-11-3-1-9(2-4-11)10-7-13-5-6-14-8-10;/h1-4,10,13H,5-8H2;1H/t10-;/m0./s1
